Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[N:1]([C:2](=[O+:3][C-:4]([H:9])[H:10])[H:8])([C:5](=[O:6])[H:11])[H:7]>>[N:1](=[C:2](/[O:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8])\[H:7],8.514278444172497
[C:1]([O:2][C:3]([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C-:4]([N+:5]([C:6](=[O:7])[H:16])([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],89.8717455678309
[C:1]([C:2]1([O:5][C:6](=[O:7])[H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([C:6](=[O:7])[H:15])([H:13])[H:14])([H:11])[H:12])=[O:5])([H:8])([H:9])[H:10],52.2870383415407
[C:1]([N:2]([C:3]([C:4]#[N:5])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([N:7]=[C:6]=[C:3]([C:4]#[N:5])[H:12])[H:11])([H:8])([H:9])[H:10],65.9129116604085
[C:1]([N:7]([H:13])[H:14])([H:8])([H:9])[H:10].[C:2]1(=[C:5]=[O:6])[C:3]([H:11])([H:12])[O:4]1>>[C:1]([C@@:2]1([C:5](=[O:6])[N:7]([H:13])[H:14])[C:3]([H:11])([H:12])[O:4]1)([H:8])([H:9])[H:10],47.45364796383009
[C:1]([H:7])([H:8])([H:9])[H:12].[C:2]1([H:10])=[C:3]([H:11])[C:4]1([C:5]([O:6][H:16])([H:14])[H:15])[H:13]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([O:6][H:16])([H:14])[H:15])[H:13])([H:7])([H:8])[H:9],76.6774659393194
[C:1]([C@@:2]([O:3][H:11])([C:4]([O:5][H:14])([H:12])[H:13])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C:4]([O:5][H:11])([H:12])[H:13])([H:8])([H:9])[H:10].[C:6](#[C:7][H:15])[H:14],43.776224162259204
[N:1]([c:2]1[n:3][n:4][c:5]([N:6]([H:10])[H:11])[o:7]1)([H:8])[H:9]>>[C:5]=[N:6][H:11].[N:1]([C:2](=[O:7])[H:10])([H:8])[H:9].[N:3]#[N:4],68.20037106020649
[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13]>>[C:1](=[C:2]([C:3]([C@@:4]1([H:11])[N:5]=[C:6]1[H:13])([H:10])[H:12])[H:9])([H:7])[H:8],69.95691777944721
[N:1]([C@@:2]([C:3]#[C:4][H:10])([C:5]#[N:6])[H:9])([H:7])[H:8]>>[N:1](/[C:2](=[C:3](\[C:4][H:10])[C:5]#[N:6])[H:9])([H:7])[H:8],48.04734299708771
[C:1]([C:2]([C@@:3]([N:4]([H:13])[H:14])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([H:10])[H:11])([H:7])[H:8].[C:3]([N:4]([H:13])[H:14])(=[C:5]=[N:6][H:9])[H:12],53.866658134148906
[C:1](/[N:2]=[c:3]1\[c:5]([N:4]([H:10])[H:11])[n:6]1)([H:7])([H:8])[H:9]>>[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5]#[N:6])([H:7])([H:8])[H:9],42.24119518935922
[O:1]([C:2]([C:3]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8]>>[C:4](=[O:5])([C:6]([O:7][H:15])([H:13])[H:14])[H:10].[O:1]([C:2](=[C:3]([H:11])[H:12])[H:9])[H:8],61.920853593062
[C:2]1([H:8])=[C:3]([H:10])[C:4](=[O:5])[C:6]1([H:11])[H:12].[O:1]([H:7])[H:9]>>[O:1]([C:2]1([H:8])[C:3]([H:9])([H:10])[C:4](=[O:5])[C:6]1([H:11])[H:12])[H:7],36.3176548458126
[C:1]1([H:8])([H:9])[C@:2]([C:3]([C:4]#[C:5][H:14])([H:12])[H:13])([H:11])[C:6][C:7]1([H:10])[H:15]>>[C:1]([C@@:2]([C:3]([C:4]#[C:5][H:14])([H:12])[H:13])([C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10],38.1845584992757
[C:1]([O:6][C:5](=[O+:4][C-:2]([C:3]([H:11])([H:12])[H:13])[H:10])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([O:4][C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9],11.80095338103699
[C:1]([N:2]([H:8])[H:10])([H:7])[H:9].[C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[H:11]>>[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[H:11])[H:10])([H:7])([H:8])[H:9],13.72125106231482
[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C@@:5]2([H:11])[O:6][C@@:7]12[H:12]>>[N:3]1([H:8])[C:4]([H:9])([H:10])[C@:5]1([C:7](=[O:6])[H:12])[H:11].[O+:1]#[C-:2],72.5518447811121
[C:1]([C:2]([O:3][H:5])([H:7])[H:8])(=[C:4]([H:9])[H:10])[H:6]>>[C:1]1([H:5])([H:6])[C:2]([H:7])([H:8])[O:3][C:4]1([H:9])[H:10],90.0996275319336
[C:5]=[N:6][H:8].[O:1]([C+:2]=[C:3]=[N-:4])[H:7]>>[O:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:8])[H:7],5.708451958090407
[C:1]([N:2]([C:3](=[C:4]([C:5]([N:6]([H:8])[H:14])([H:12])[H:13])[H:11])[H:10])[H:9])[H:7]>>[C:1]1([H:7])([H:8])[N:2]([H:9])[C@:3]1([C@@:4]1([H:11])[C:5]([H:12])([H:13])[N:6]1[H:14])[H:10],47.1013542606056
[C:1]([C:2]([O+:3]=[C-:4][H:11])([H:9])[H:10])([H:6])([H:7])[H:8].[C:5]([H:12])([H:13])([H:14])[H:15]>>[C:1]([C:2]([O:3][C:4]([C:5]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],15.178546825052194
[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[N:3](=[C:4]([H:10])[H:11])[H:9].[O:1]=[C:2]([C:6]1=[C:7]([H:14])[C:5]1([H:12])[H:13])[H:8],89.83677815158941
[O:1]([N:6]=[C:5]=[C:2]([C:3](=[O:4])[H:9])[H:8])[H:7]>>[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[N:6])[H:8])[H:7],44.60014687308279
[O:1]([C:2][N:3]([C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])[H:7]>>[O:1]=[C:2]([N:3]([C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])[H:7],28.91185181643511
[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([H:8])[H:11])([H:9])[H:10].[C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12],93.0219712830765
